US05442032
271.2 Grams (2.02 moles) of crude 6-hydroxy-3-oxa-caproic acid, as prepared in Example 1, 3.5 liters (87 moles) of reagent grade methanol, and 0.2 grams (2 mmol) of concentrated sulfuric acid were charged into a five liter, round bottom flask containing some boiling chips. A reflux condenser connected to a dry stream of nitrogen gas via tubing was attached, and the solution was heated to reflux with an oil bath for twenty four hours. After the solution had cooled down, 5.00 grams (59.5 mmol) of sodium bicarbonate were added, and a distillation head was attached. The methanol was distilled off at atmospheric pressure. After the methanol was removed, the orangish brown residue was vacuum filtered into a tared, one liter round bottom flask containing a magnetic stirring bar. 297 grams of crude methyl 6-hydroxy-3-oxa-caproate were collected (99.0% yield). A still head was attached, and the crude product was vacuum distilled. Initially, a colorless liquid distilled over between 88° C. and 90° C. (0.01 mm Hg), but the distillation rate eventually slowed down. After two hours, some crystals of 1,5,8,12-tetraoxacyclotetradecane-7,14-dione formed in the condenser. The distillation was stopped. The collection flask was placed in the refrigerator overnight. Crystals of 1,5,8,12-tetraoxacyclotetradecane-7,14-dione formed in the collection flask and were removed by suction filtration. These crystals were washed with 100 mL of ethyl acetate and air dried. 4.11 grams of 1,5,8,12-tetraoxacyclotetradecane-7,14-dione and 67.5 grams of supernatent liquid A were isolated.

reactant | 6-hydroxy-3-oxa-caproic acid | 2.02 moles | OCCCOCC(=O)O | C5H10O4
reactant | sulfuric acid | 2 mmol, 0.2 grams | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | 59.5 mmol, 5.00 grams | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
product | 1,5,8,12-tetraoxacyclotetradecane-7,14-dione | 99.0% yield | O1CCCOCC(OCCCOCC1=O)=O | C10H16O6
